US08217032B2
(2-Bromo-5-fluoro-phenyl)-carbamic acid tert-butyl ester
Place 2-bromo-5-fluoroaniline (2.50 g, 13.16 mmol) and dichloromethane (50 mL) in a round bottom flask. Add sodium hydride (60% dispersion in mineral oil) (0.58 g, 14.47 mmol) and stir this suspension at ambient temperature for 20 minutes. Now add di-t-butyl dicarbonate (3.02 g, 13.82 mmol) and stir for 30 minutes at ambient temperature followed by 2 hours at reflux. Cool this solution to ambient temperature and add more sodium hydride (60% dispersion in mineral oil) (0.58 g, 14.47 mmol) and di-t-butyl dicarbonate (0.30 g, 1.38 mmol). Heat this mixture at reflux overnight. Cool the reaction to ambient temperature and quench with H2O and saturated aqueous ammonium chloride. Extract the resulting mixture into ethyl acetate. Combine the extracts and wash with saturated aqueous sodium bicarbonate, H2O and brine; then dry (sodium sulfate) and concentrate in vacuo. Purify the resulting oil by flash chromatography (silica gel; 5% Et3O/hexanes) to provide the desired product, 3.61 g (95%).

reactant | 2-bromo-5-fluoroaniline | 13.16 mmol, 2.50 g | BrC1=C(N)C=C(C=C1)F | C6H5BrFN
reactant | sodium hydride | 14.47 mmol, 0.58 g | [H-].[Na+]
reactant | di-t-butyl dicarbonate | 13.82 mmol, 3.02 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydride | 14.47 mmol, 0.58 g | [H-].[Na+]
reactant | di-t-butyl dicarbonate | 1.38 mmol, 0.30 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | (2-Bromo-5-fluoro-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=CC(=C1)F)Br)=O | C11H13BrFNO2
